US05387710
A mixture of 5-(3-methoxyphenyl)-4-nitrovaleric acid (1.00 g) and thionyl chloride (0.34 ml) in 1,2-dichloroethane (2 ml) was refluxed for 1 hour. After cooling, aluminum chloride (0.53 g) was added to the solution at -12° C. and the whole was stirred for 0.5 hour. The solution was poured into ice water (15 ml). The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution, and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to give 2-methoxy-8-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (772 mg).

reactant | 5-(3-methoxyphenyl)-4-nitrovaleric acid | 1.00 g | COC=1C=C(C=CC1)CC(CCC(=O)O)[N+](=O)[O-] | C12H15NO5
reactant | thionyl chloride | 0.34 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 0.53 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 2-methoxy-8-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 772 mg | COC=1C=CC2=C(CC(CCC2=O)[N+](=O)[O-])C1 | C12H13NO4
